US09290451B2
d) (S)-tert-Butyl 2-cyclopropyl-1-(5-methyl-1,2,4-oxadiazol-3-yl)ethylcarbamate
To a solution of acetic acid (0.224 g, 4 mmol) in DMF (5 mL) was added N,N′-carbonyldiimidazole (0.6 g, 4 mmol) and the mixture was stirred for 0.5 h at room temperature. (S,Z)-tert-butyl 1-amino-3-cyclopropyl-1-(hydroxyimino)propan-2-ylcarbamate (0.84 g, 3 mmol) was added and the mixture was heated to 120° C. and stirred for 4 h. After evaporation of solvents, the residue was purified by column chromatography (silica gel, 20 g, eluting with 10% ethyl acetate in petroleum ether) to give the title compound (0.5 g; 54%) as yellow solid; MS (EI): m/e 290.1 [M+Na]+.

reactant | acetic acid | 4 mmol, 0.224 g | C(C)(=O)O | C2H4O2
reactant | (S,Z)-tert-butyl 1-amino-3-cyclopropyl-1-(hydroxyimino)propan-2-ylcarbamate | 3 mmol, 0.84 g | N\C(\[C@H](CC1CC1)NC(OC(C)(C)C)=O)=N/O | C11H21N3O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 2-cyclopropyl-1-(5-methyl-1,2,4-oxadiazol-3-yl)ethylcarbamate | 0.5 g, 54% | C1(CC1)C[C@@H](C1=NOC(=N1)C)NC(OC(C)(C)C)=O | C13H21N3O3
